US07947738B2
(34-a) Ethyl(±)-2-cyclobutylpent-4-enoate
A 1.9 M tetramethyldisilazane sodium-tetrahydrofuran solution (9.44 mL, 18.0 mmol) was added dropwise over 10 minutes to a tetrahydrofuran (40 mL) solution of ethyl 2-cyclobutylacetate (2.32 g, 16.3 mmol) cooled to −78° C., and the mixture was then stirred at −78° C. for 10 minutes. Subsequently, a tetrahydrofuran (10 mL) solution of allyl bromide (7.90 g, 65.3 mmol) was added dropwise thereto over 10 minutes, and the mixture was stirred at room temperature for 17 hours. The mixture was treated with water, and volatile portions were then removed under reduced pressure. To the obtained liquid, ethyl acetate and water were added, and the obtained organic layer was dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure to obtain the compound of interest as a yellow oil substance (1.80 g, 61%).

reactant | tetramethyldisilazane sodium tetrahydrofuran | 18.0 mmol, 1.9 M, 9.44 mL | [Na].CN([Si](C)(C)C)[SiH3].O1CCCC1
reactant | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
reactant | ethyl 2-cyclobutylacetate | 16.3 mmol, 2.32 g | C1(CCC1)CC(=O)OCC | C8H14O2
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | allyl bromide | 65.3 mmol, 7.90 g | C(C=C)Br | C3H5Br
solvent | water | O | H2O
product | Ethyl(±)-2-cyclobutylpent-4-enoate | C1(CCC1)C(C(=O)OCC)CC=C | C11H18O2
